US08133886B2
Step 10.2: 6-(2-Amino-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid
24.4 g (77.5 mMol) 6-(2-amino-6-chloro-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid in 3.5 l THF and 100 ml Et3N are hydrogenated in the presence of 15 g Pd/C (10%; Engelhard 4505). The catalyst is filtered off and washed extensively with THF. Partial concentration of the filtrate precipitates the title compound: MS: [M+1]+=282.

reactant | 6-(2-amino-6-chloro-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid | 77.5 mMol, 24.4 g | NC1=NC(=CC(=N1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O)Cl | C15H10ClN3O3
solvent | THF | 3.5 l | C1CCOC1 | C4H8O
solvent | Et3N | 100 ml | CCN(CC)CC | C6H15N
catalyst | Pd/C | 15 g | [Pd] | Pd
product | 6-(2-Amino-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid | NC1=NC=CC(=N1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C15H11N3O3
